US04554100
Benzyloxycarbonyl Alanine Isobutylamide
14 ml of chloro-sec. butyl formate added at -10 degrees C. to a solution of 23 grams of benzyloxycarbonyl alanine in 200 ml of methylene chloride and 14 ml of N-ethyl piperidine, 20.7 g of a product having a melting point of 109 to 111 degrees C. was obtained by the procedure described in Example 1 by crystallization from 60 ml of ethyl acetate and 200 ml of petroleum ether [α]D20 8.7 degrees (c 0.3; dimethylformamide).

reactant | chloro-sec. butyl formate | 14 ml | C(=O)OC(C)(CC)Cl | C5H9ClO2
reactant | benzyloxycarbonyl alanine | 23 grams | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | N-ethyl piperidine | 14 ml | C(C)N1CCCCC1 | C7H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Benzyloxycarbonyl Alanine Isobutylamide | C(C(C)C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C15H22N2O3
